US07728005B2
To N-(5-nitroisoquinolin-8-yl)trifluoroacetamide (200 mg) were added ethyl acetate (15 ml) and 5% palladium-carbon (wet, 20 mg) and the mixture was stirred at room temperature under hydrogen atmosphere for 1 hr. Tetrahydrofuran was added to the reaction mixture to dissolve the resultant crystals, and palladium catalyst was removed by celite filtration. The solvent was evaporated from the filtrate to give N-(5-aminoisoquinolin-8-yl)trifluoroacetamide as a crude product. Tetrahydrofuran (12 ml), pyridine (62 μl) and phenyl chloroformate (0.10 ml) were added to the obtained crude product, and the mixture was stirred at room temperature for 15 min. The reaction mixture was diluted with dichloromethane, and washed twice with saturated aqueous sodium hydrogen carbonate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was washed with diethyl ether and dried under reduced pressure to give 8-(trifluoroacetylamino)isoquinolin-5-ylcarbamic acid phenyl ester (194 mg).

reactant | N-(5-nitroisoquinolin-8-yl)trifluoroacetamide | 200 mg | [N+](=O)([O-])C1=C2C=CN=CC2=C(C=C1)NC(C(F)(F)F)=O | C11H6F3N3O3
reactant | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | [Pd] | Pd
catalyst | palladium-carbon | 20 mg | [C].[Pd]
solvent | Tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(5-aminoisoquinolin-8-yl)trifluoroacetamide | NC1=C2C=CN=CC2=C(C=C1)NC(C(F)(F)F)=O | C11H8F3N3O
